US09193707B2
2. Synthesis of methyl 3-amino-2-(benzyloxy)benzoate
Into a 500-mL 4-necked round-bottom flask, was placed methyl 2-(benzyloxy)-3-nitrobenzoate (20 g, 69.62 mmol, 1.00 equiv), ethanol (200 mL), water (100 mL) and NH4Cl (11.1 g, 207.52 mmol, 2.98 equiv). This was followed by the addition of Fe (19.5 g) in portions. To the mixture was added hydrogen chloride (5 mL). The resulting solution was stirred for 5 h at 85° C. in an oil bath. The solids were filtered out. The filter cake was washed with 3×50 mL of ethanol. The resulting mixture was concentrated under vacuum. The residue was dissolved in 1000 mL of ethyl acetate. The resulting mixture was washed with 3×800 mL of water. The resulting mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 17 g (95%) of methyl 3-amino-2-(benzyloxy)benzoate as yellow oil. MS (ESI) m/z 258 ([M+H]+).

reactant | methyl 2-(benzyloxy)-3-nitrobenzoate | 69.62 mmol, 20 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C15H13NO5
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | NH4Cl | 207.52 mmol, 11.1 g, 2.98 equiv | [NH4+].[Cl-]
reactant | hydrogen chloride | 5 mL | Cl | ClH
catalyst | Fe | 19.5 g | [Fe] | Fe
solvent | water | 100 mL | O | H2O
product | methyl 3-amino-2-(benzyloxy)benzoate | NC=1C(=C(C(=O)OC)C=CC1)OCC1=CC=CC=C1 | C15H15NO3
